US07884207B2
Nitromethane (6.6 mL, 122.0 mmol) and sodium methoxide (0.94 mL of 25 wt % in methanol, 4.1 mmol) were added to a solution of 1-methyl-4-piperidone (10 mL, 81.3 mmol) in ethanol (10 mL). After 30 minutes more ethanol (15 mL) was added to facilitate stirring. The reaction mixture was stirred at ambient temperature for 2 days and then filtered. The isolated solid was rinsed with ether to provide 10.39 g of 1-methyl-4-nitromethylpiperidin-4-ol as a white powder. An additional 1.18 g was isolated from the filtrate.

reactant | Nitromethane | 122.0 mmol, 6.6 mL | [N+](=O)([O-])C | CH3NO2
reactant | 1-methyl-4-piperidone | 81.3 mmol, 10 mL | CN1CCC(CC1)=O | C6H11NO
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | sodium methoxide | 4.1 mmol, 0.94 mL | C[O-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 1-methyl-4-nitromethylpiperidin-4-ol | 10.39 g | CN1CCC(CC1)(O)C[N+](=O)[O-] | C7H14N2O3
